US06964965B2
A 250 ml round bottom flask was charged with benzyl (3R,4S)-3-amino-4-hydroxypyrrolidine-1-carboxylate (4.97 g, 21.04 mmol), 2-chloro-3,6-diethylpyrazine (3.95 g, 23.15 mmol), Pd2(dba)3 (10 mol %, 1.926 g), 2-dicyclohexylphosphino-2′-(N, N-dimethyl amino)biphenyl (20 mol %, 1.66 g), ethylene glycol dimethyl ether (110 mL), and Cs2CO3 (9.57 g) respectively. The reaction mixture was stirred at 80° C. for 20 hr. It was cooled, diluted with Et2O (100 ml), poured into NaHCO3 (80 ml), extracted with CH2Cl2 (150 ml×3), dried (MgSO4), and concentrated. Purification with Biotage MPLC (35% EtOAc in heptane) provided 4.6 g (60%) of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate as an oil. IR (liq.) 2969, 2344, 1996, 1952, 1703, 1691, 1546, 1499, 1449, 1426, 1395, 1359, 1175, 1133, 1095, cm−1. HRMS (FAB) calcd for C20H26N4O3+H1 371.2083. found 371.2089.

reactant | benzyl (3R,4S)-3-amino-4-hydroxypyrrolidine-1-carboxylate | 21.04 mmol, 4.97 g | N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C12H16N2O3
reactant | 2-chloro-3,6-diethylpyrazine | 23.15 mmol, 3.95 g | ClC1=NC(=CN=C1CC)CC | C8H11ClN2
reactant | 2-dicyclohexylphosphino-2′-(N, N-dimethyl amino)biphenyl | 1.66 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Cs2CO3 | 9.57 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
solvent | Et2O | 100 ml | CCOCC | C4H10O
catalyst | Pd2(dba)3 | 1.926 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethylene glycol dimethyl ether | 110 mL | COCCOC | C4H10O2
product | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate | 4.6 g, 60% | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C20H26N4O3
